US06787652B1
2-[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile
A solution of ({[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-hydrazono}-cyano-acetyl)-carbamic acid ethyl ester (1.0 g) of PREPARATION 3, potassium acetate (200 mg) and acetic acid (11 ml) were heated to 120° C. for 5 h. The reaction was concentrated, water was added, and the resulting solids were collected and dried to afford the title compound as a yellow solid (895 mg). Calc.: 442.0; Found: 441.0 (M−1).

reactant | ({[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-hydrazono}-cyano-acetyl)-carbamic acid ethyl ester | 1.0 g | C(C)OC(NC(C(C#N)=NNC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)OC)Br)C)=O)=O | C21H21BrN4O5
reactant | potassium acetate | 200 mg | C(C)(=O)[O-].[K+]
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | 2-[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 895 mg | BrC=1C=C(OC2=C(C=C(C=C2C)N2N=C(C(NC2=O)=O)C#N)C)C=CC1OC | C19H15BrN4O4
